US07625888B2
Step G: 8-Methoxy-2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidine
To a vigorously stirred mixture of 336 mg (1.33 mmol) of 2-(trifluoromethyl)-6,7-dihydropyrido[3,4-d]pyrimidin-8(5H)-one and 2.94 g (27.7 mmol) of anhydrous sodium carbonate in 15 mL of dichloromethane was added 979 mg (6.6 mmol) of trimethyloxonium tetrafluoroborate. Vigorous stirring was continued at room temperature for 5.5 h. Then 15 mL of water was added, and the mixture was shaken. After separation of the phases, the aqueous layer was extracted twice with dichloromethane. The combined organic fractions were dried over sodium sulfate, filtered, and concentrated. Purification of the residue by flash chromatography on silica gel (0-2% methanol in dichloromethane) yielded the title compound as a yellow solid. LC-MS 232 (M+1).

reactant | 2-(trifluoromethyl)-6,7-dihydropyrido[3,4-d]pyrimidin-8(5H)-one | 1.33 mmol, 336 mg | FC(C=1N=CC2=C(N1)C(NCC2)=O)(F)F | C8H6F3N3O
reactant | sodium carbonate | 27.7 mmol, 2.94 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | trimethyloxonium tetrafluoroborate | 6.6 mmol, 979 mg | F[B-](F)(F)F.C[O+](C)C
reactant | water | 15 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 8-Methoxy-2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidine | COC1=NCCC2=C1N=C(N=C2)C(F)(F)F | C9H8F3N3O
